US07378418B2
Preparation of 7,8-bis(4-chlorophenyl)-2-cyclohexyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The title compound was prepared using 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (40 mg, 0.11 mmol), prepared as described in Example 1, Cs2CO3 (44 mg, 0.135 mmol), bromoclohexane (100 mg, 0.61 mmol) in DMF (1 mL) and by following the procedure described in Example 9. The title compound, 7,8-bis(4-chlorophenyl)-2-cyclohexyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (26 mg, 54%) was obtained as yellow lyophilate. MS M+H=439; 1H NMR (CDCl3) δ 8.17 (1H, s), 7.30-7.38 (6H, m), 7.11 (2H, d, J=5.0 Hz), 4.38-4.41 (1H, m), 1.75-2.0 (6H, m), 1.65-1.75 (1H, m), 1.35-1.50 (2H, m), 1.1-1.30 (1H, m).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.11 mmol, 40 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | Cs2CO3 | 0.135 mmol, 44 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7,8-bis(4-chlorophenyl)-2-cyclohexyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 26 mg, 54% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C2CCCCC2)=O)C2=CC=C(C=C2)Cl | C23H20Cl2N4O
